US09169253B2
30.1 Preparation of 2-(4-benzyl-3,4-dihydro-2H-quinoxalin-1-yl)-acetamide
A solution of 1 g (4.46 mmol) 1-benzyl-1,2,3,4-tetrahydroquinoxaline in 10 ml of dimethylformamide was treated with 3.14 ml (18.15 mmol) of N-Ethyl-N-isopropylpropan-2-amine, and subsequently 863 mg (9.23 mmol) 2-chloroacetamide was added. The reaction mixture was heated in a microwave system at 100° C. for four hours. The resulting mixture was quenched with water and extracted once with ethylacetate. The aqueous phase was set to pH 10 with sodium hydroxide solution and extracted 3× with ethylacetate. The combined organic extracts were dried with magnesium sulfate, evaporated till dryness and directly purified by column chromatography on silica (eluent: starting with heptane and then up to 100% ethylacetate) to yield 1.224 g of the title compound.

reactant | 1-benzyl-1,2,3,4-tetrahydroquinoxaline | 4.46 mmol, 1 g | C(C1=CC=CC=C1)N1CCNC2=CC=CC=C12 | C15H16N2
reactant | N-Ethyl-N-isopropylpropan-2-amine | 18.15 mmol, 3.14 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloroacetamide | 9.23 mmol, 863 mg | ClCC(=O)N | C2H4ClNO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4-benzyl-3,4-dihydro-2H-quinoxalin-1-yl)-acetamide | 1.224 g | C(C1=CC=CC=C1)N1CCN(C2=CC=CC=C12)CC(=O)N | C17H19N3O
